US05804601
A mixture of monoethyl heptanedioate (9.41 g), o-aminophenol (5.46 g), boric acid (3.09 g), and xylene (100 ml) was refluxed with water being azeotropically removed for 16 hours. After cooling to room temperature, the insoluble matter was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=2:1) to provide ethyl 6-(benzoxazol-2-yl)hexanoate (10.1 g).

reactant | monoethyl heptanedioate | 9.41 g | C(CCCCCC(=O)[O-])(=O)OCC
reactant | o-aminophenol | 5.46 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | boric acid | 3.09 g | B(O)(O)O | BH3O3
reactant | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | ethyl 6-(benzoxazol-2-yl)hexanoate | 10.1 g | O1C(=NC2=C1C=CC=C2)CCCCCC(=O)OCC | C15H19NO3
